US06809108B1
Synthesis of (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-(3-pyrrolidylmethyl)pyrrolidine-2-carboxamide
The title compound was prepared by successively conducting procedures similar to Step 5 of Example 1 and Example 46, using 3-aminomethyl-1-(t-butoxycarbonyl)pyrrolidine [which was synthesized by a method similar to the one described in Japan Kokai Hei 11(1999)-193232, using 3-hydroxymethyl-1-benzylpyrrolidine [taught in Japan Kokai (laid-open) Hei 4(1992)-112868]] and (2R)-1-{(2S,4R)-4-(tert-butoxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-pyrrolidine-2-carboxylic acid.

reactant | 3-aminomethyl-1-(t-butoxycarbonyl)pyrrolidine | NCC1CN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 3-hydroxymethyl-1-benzylpyrrolidine | OCC1CN(CC1)CC1=CC=CC=C1 | C12H17NO
reactant | (2R)-1-{(2S,4R)-4-(tert-butoxy)-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-pyrrolidine-2-carboxylic acid | C(C)(C)(C)O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)O | C35H40N2O5
product | (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-(3-pyrrolidylmethyl)pyrrolidine-2-carboxamide | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NCC1CNCC1 | C36H42N4O4
